US04609730
To a solution of 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-ethynyl-3-cephem-4-carboxylic acid (syn isomer) (1.1 g) in tetrahydrofuran (22 ml) was added a solution of sodium acetate (0.234 g) in methanol (2.3 ml) at ambient temperature. After the mixture was stirred under ice-cooling for 30 minutes, the precipitates were collected by filtration to give sodium 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-ethynyl-3-cephem-4-carboxylate (syn isomer) (1.16 g).

reactant | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-ethynyl-3-cephem-4-carboxylic acid | 1.1 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C#C)C(=O)O)C1=O)C=1N=C(SC1)N | C15H13N5O5S2
reactant | sodium acetate | 0.234 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
solvent | methanol | 2.3 ml | CO | CH4O
product | sodium 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-ethynyl-3-cephem-4-carboxylate | 1.16 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C#C)C(=O)[O-])C1=O)C=1N=C(SC1)N.[Na+] | InChI=1S/C15H13N5O5S2.Na/c1-3-6-4-26-13-9(12(22)20(13)10(6)14(23)24)18-11(21)8(19-25-2)7-5-27-15(16)17-7;/h1,5,9,13H,4H2,2H3,(H2,16,17)(H,18,21)(H,23,24);/q;+1/p-1/t9?,13-;/m1./s1
